US04898872
2-Methoxy-6-(benzimidazol-2-yl)-8-methylquinoline
2-Methoxy-8-methylquinoline-6-carboxylic acid (1.09 g) was added in portions to a stirred mixture of o-phenylene diamine (0.54 g) and phosphorus oxychloride (20 cm3) at room temperature (20° ). The mixture was heated under reflux for 4 hours and then solvent was evaporated in vacuo. Ice (20 g) was added to the residue which was then basified to pH 9 with aqueous 2.5M sodium hydroxide and filtered to yield a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with methanol:dichloromethane, 1:100 by volume. Combination and evaporation of appropriate fractions gave the title compound which was characterised spectroscopically and used directly in Example 2 without further purification.

reactant | 2-Methoxy-8-methylquinoline-6-carboxylic acid | 1.09 g | COC1=NC2=C(C=C(C=C2C=C1)C(=O)O)C | C12H11NO3
reactant | o-phenylene diamine | 0.54 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | phosphorus oxychloride | 20 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Methoxy-6-(benzimidazol-2-yl)-8-methylquinoline | COC1=NC2=C(C=C(C=C2C=C1)C=1NC2=C(N1)C=CC=C2)C | C18H15N3O
